US06489490B1
3.4 g of γ-phenyl-γ-butyrolactam (for example from Ex. XI-1) were initially charged in 63 ml of tetrahydrofuran (THF) and, at −78° C., admixed with 9.24 ml of a 2.4N solution of butyllithium in n-hexane. The mixture was stirred at this temperature for half an hour, a solution of 5.04 g of di-tert-butyl dicarbonate in 20 ml of THF was added dropwise with further cooling and the mixture was stirred at −78° C. for a further three hours and then without cooling overnight. The mixture was then hydrolysed using saturated aqueous ammonium chloride solution, diluted with water and extracted three times with ethyl acetate. The combined organic phases were washed with saturated sodium chloride solution and dried over magnesium sulphate. Concentration gave 1.54 g (28% of theory) of N-t-butoxycarbonyl-γ-phenyl-γ-butyrolactam.

reactant | γ-phenyl-γ-butyrolactam | 3.4 g | C1(=CC=CC=C1)C1CCC(=O)N1 | C10H11NO
reactant | butyllithium | C(CCC)[Li]
reactant | di-tert-butyl dicarbonate | 5.04 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 63 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-t-butoxycarbonyl-γ-phenyl-γ-butyrolactam | 1.54 g, 28% | C(C)(C)(C)OC(=O)N1C(CCC1C1=CC=CC=C1)=O | C15H19NO3
